US04168385
Methyl α-(3,5-dimethyl-4-chlorophenoxy)-α-[p-(p-chlorophenoxy)phenyl]acetate
To a solution of 1.19 g of sodium methoxide and 50 mg of potassium iodide in 40 ml of methanol is added 3.92 g of 3,5-dimethyl-4-chlorophenol. After one hour, a solution of 7.11 g of methyl α-bromo-α-[p-(p-chlorophenoxy)phenyl]acetate in 10 ml of benzene is added. The solution is refluxed overnight. After cooling to room temperature the mixture is poured into 100 ml of water and extracted with two 60 ml portions of ether. The combined extracts are washed with two 50 ml portions of 5% NaOH, 50 ml of water, 50 ml of saturated brine and dried (MgSO4). Evaporation of the solvent affords a yellow oil which is chromatographed on 100 g silica gel and eluted with 400 ml of benzene. Evaporation of the solvent under vacuum gives the product as a colorless oil.

reactant | sodium methoxide | 1.19 g | C[O-].[Na+]
reactant | potassium iodide | 50 mg | [I-].[K+]
reactant | 3,5-dimethyl-4-chlorophenol | 3.92 g | CC=1C=C(C=C(C1Cl)C)O | C8H9ClO
reactant | methyl α-bromo-α-[p-(p-chlorophenoxy)phenyl]acetate | 7.11 g | BrC(C(=O)OC)C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | C15H12BrClO3
solvent | methanol | 40 ml | CO | CH4O
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | water | 100 ml | O | H2O
product | Methyl α-(3,5-dimethyl-4-chlorophenoxy)-α-[p-(p-chlorophenoxy)phenyl]acetate | CC=1C=C(OC(C(=O)OC)C2=CC=C(C=C2)OC2=CC=C(C=C2)Cl)C=C(C1Cl)C | C23H20Cl2O4
